US06900215B2
3-(2-Fluorophenyl)pyridine was lithiated and reacted with trimethyl borate as described in Example 31 to give 2-fluoro-3-(pyridin-3-yl)benzeneboronic acid as a white solid: m/z (ES+) 218 (M++H).

reactant | 3-(2-Fluorophenyl)pyridine | FC1=C(C=CC=C1)C=1C=NC=CC1 | C11H8FN
reactant | trimethyl borate | B(OC)(OC)OC | C3H9BO3
product | 2-fluoro-3-(pyridin-3-yl)benzeneboronic acid | FC1=C(C=CC=C1C=1C=NC=CC1)B(O)O | C11H9BFNO2
